US06884814B2
Step b) 3-(4-Hydroxyphenyl)-1,2-benzisoxazol-6-ol.
A mixture of (2,4-dihydroxyphenyl)(4-hydroxyphenyl)methanone oxime (0.46 g, 1.87 mmol), acetic anhydride (0.19 g, 1.87 mmol) and Et3N (0.25 g, 2.44 mmol) was stirred at room temperature for 24 h. The mixture was pored into water/brine and extracted with EtOAc. The organic extracts were dried over MgSO4. Evaporation and purification by flash chromatography (CH2Cl2/hexanes/EtOAc/MeOH 5/3.5/1/0.05) gave an off-white solid (0.19 g, 42% yield, m.p. 192-194° C.); MS m/e 226 (M−H)+.

reactant | (2,4-dihydroxyphenyl)(4-hydroxyphenyl)methanone oxime | 1.87 mmol, 0.46 g | OC1=C(C=CC(=C1)O)C(=NO)C1=CC=C(C=C1)O | C13H11NO4
reactant | acetic anhydride | 1.87 mmol, 0.19 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | Et3N | 2.44 mmol, 0.25 g | CCN(CC)CC | C6H15N
reactant | water brine | O.[Cl-].[Na+].O
product | 3-(4-Hydroxyphenyl)-1,2-benzisoxazol-6-ol | 0.19 g, 42% yield | OC1=CC=C(C=C1)C1=NOC2=C1C=CC(=C2)O | C13H9NO3
